US08648089B2
6-(6-(4-methoxyphenyl)-1H,1′H-3,6′-biindol-1-yl)-N-methylpyrimidin-4-amine
6-(3-Bromo-6-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine (50 mg, 0.074 mmol), K3PO4 (47.1 mg, 0.222 mmol) and 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (27 mg, 0.111 mmol) were dissolved in dimethylformamide (2 mL) and then Pd(PPh3)4 (12.83 mg, 0.011 mmol) was added. After stirring at 120° C. for 3 hours, followed by addition of ethyl acetate and water, the reaction solution was filtered using a diatomite pad. The aqueous layer was extracted with ethyl acetate and the collected organic layer was washed with brine and then concentrated under reduced pressure by drying with magnesium sulfate. The residue was purified by chromatography (silica gel, EtOAc:hexane=1:10→1:4→1:2). The target compound was obtained as brown solid.

reactant | 6-(3-Bromo-6-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | 0.074 mmol, 50 mg | BrC1=CN(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)C1=CC(=NC=N1)NC | C20H17BrN4O
reactant | K3PO4 | 0.222 mmol, 47.1 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.111 mmol, 27 mg | CC1(OB(OC1(C)C)C1=CC=C2C=CNC2=C1)C | C14H18BNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 0.011 mmol, 12.83 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 6-(6-(4-methoxyphenyl)-1H,1′H-3,6′-biindol-1-yl)-N-methylpyrimidin-4-amine | COC1=CC=C(C=C1)C1=CC=C2C(=CN(C2=C1)C1=CC(=NC=N1)NC)C1=CC=C2C=CNC2=C1 | C28H23N5O
